US08258144B2
To a suspension of 2-chloro-N-cyclobutyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (67 mg, 0.3 mmol) in nBuOH (0.8 mL) was added N-(4-aminophenyl)-N-methylcyclopropanecarboxamide (85 mg, 0.45 mmol) and TMSCl (0.02 mL, 0.15 mmol). After heating at 115° C. for 2 h, the mixture was cooled and purified by preparative HPLC to give N-(4-(4-(cyclobutylamino)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)-N-methylcyclopropanecarboxamide (7 mg). MS found for C21H24N6O as (M+H)+ 377.2. λ=208.7, 272.4, 304.5.

reactant | 2-chloro-N-cyclobutyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.3 mmol, 67 mg | ClC=1N=C(C2=C(N1)NC=C2)NC2CCC2 | C10H11ClN4
reactant | N-(4-aminophenyl)-N-methylcyclopropanecarboxamide | 0.45 mmol, 85 mg | NC1=CC=C(C=C1)N(C(=O)C1CC1)C | C11H14N2O
reactant | TMSCl | 0.15 mmol, 0.02 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | nBuOH | 0.8 mL | C(CCC)O | C4H10O
product | N-(4-(4-(cyclobutylamino)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)-N-methylcyclopropanecarboxamide | 7 mg | C1(CCC1)NC=1C2=C(N=C(N1)NC1=CC=C(C=C1)N(C(=O)C1CC1)C)NC=C2 | C21H24N6O
